US04727180
To a solution of 31.6 g (0.12 mole) of 1-methoxy-3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzene in 200 ml dichloromethane is added 38 g (0.2 mole) of titanium tetrachloride at 0°-5° with stirring under a nitrogen atmosphere. After the resulting solution is stirred for 15 minutes, 11.5 g (0.1 mole) of α,α-dichloromethyl methyl ether is added dropwise at 0°-5° C. Stirring is continued while the temperature of the solution is allowed to reach 20°-25° during 18 hours. The solution is then added with stirring to a solution of 100 ml 6N hydrochloric acid in 500 ml of ice and water. The resulting organic phase is separated leaving an aqueous phase which is washed with three 300 ml portions of dichloromethane. The combined dichloromethane extracts are washed with 1N hydrochloric acid and then with saturated sodium chloride solution. The dichloromethane solution is dried with anhydrous magnesium sulfate, filtered, and evaporated at reduced pressure to obtain an oily solid which is triturated with chlorobutane, filtered and recrystallized from chlorobutane to give 14.5 g of 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-(trifluoromethyl)ethyl]benzaldehyde having a melting point of 144°-146°.

reactant | 1-methoxy-3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzene | 0.12 mole, 31.6 g | COC1=CC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H8F6O2
reactant | α,α-dichloromethyl methyl ether | 0.1 mole, 11.5 g | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
catalyst | titanium tetrachloride | 0.2 mole, 38 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-(trifluoromethyl)ethyl]benzaldehyde | 14.5 g | COC1=C(C=O)C=CC(=C1)C(C(F)(F)F)(O)C(F)(F)F | C11H8F6O3
